*Max ground clamp curve for model driver
*Spice deck created by Layout Workbench Version 24.1.0.10141.541387   000
mx1 n1 in vdd vdd pfet w=3.6e-06 l=6e-07
mx2 n1 in vss vss nfet w=1.8e-06 l=6e-07
mxi1 oe_b oe vdd vdd pfet w=0.6e-06 l=6e-07
mxi2 oe_b oe vss vss nfet w=0.3e-06 l=6e-07
mx5 n2 oe vdd vdd pfet w=3.21e-05 l=6e-07
mx5p n2 oe vdd vdd pfet w=3.21e-05 l=6e-07
mx6 n2 in vdd vdd pfet w=3.21e-05 l=6e-07
mx6p n2 in vdd vdd pfet w=3.21e-05 l=6e-07
mx7 n2 oe n_int1 vss nfet w=7.2e-06 l=6e-07
mx8 n_int1 in vss vss nfet w=7.2e-06 l=6e-07
mx9 nand_n3 oe vdd vdd pfet w=3.21e-05 l=6e-07
mx9p nand_n3 oe vdd vdd pfet w=3.21e-05 l=6e-07
mx10 nand_n3 n1 vdd vdd pfet w=3.21e-05 l=6e-07
mx10p nand_n3 n1 vdd vdd pfet w=3.21e-05 l=6e-07
mx11 nand_n3 oe n_int2 vss nfet w=7.2e-06 l=6e-07
mx12 n_int2 n1 vss vss nfet w=7.2e-06 l=6e-07
mx13 n3 nand_n3 vdd vdd pfet w=3.21e-05 l=6e-07
mx14 n3 nand_n3 vss vss nfet w=7.2e-06 l=6e-07
mx28 out n2 vdd vdd pfet w=4.215e-05 l=9e-07
mx27 vdd n2 out vdd pfet w=4.215e-05 l=9e-07
mx26 out n2 vdd vdd pfet w=4.215e-05 l=9e-07
mx25 vdd n2 out vdd pfet w=4.215e-05 l=9e-07
mx24 out n2 vdd vdd pfet w=4.215e-05 l=9e-07
mx19 out n3 vss vss nfet w=2.115e-05 l=9e-07
mx18 vss n3 out vss nfet w=2.115e-05 l=9e-07
mx17 out n3 vss vss nfet w=2.115e-05 l=9e-07
mx16 vss n3 out vss nfet w=2.115e-05 l=9e-07
mx15 out n3 vss vss nfet w=2.115e-05 l=9e-07
mx29 in_sense out vdd vdd pfet w=0.6e-06 l=6e-07
mx30 in_sense out vss vss nfet w=0.3e-06 l=6e-07
cx10 n2 vss 3.96825e-15
cx9 n2 vdd 7.81995e-15
cx8 n2 out 9.1464e-15
cx7 n3 vss 3.96825e-15
cx6 n3 vdd 7.81995e-15
cx5 n3 out 9.1464e-15
cx4 n1 vss 3.159e-15
cx3 n2 out 2.214e-15
cx2 n3 vss 2.75184e-15
cx1 n1 vss 3.46437e-15
cx0 n3 vss 2.30877e-15
cx_int1 n_int1 vss 1e-15
cx_int2 n_int2 vdd 1e-15
cx_sense in_sense vss 1e-15
* DATE: Dec  9/02
* LOT: T29B                  WAF: 6003
* Temperature_parameters=Default
*.MODEL TSMC18dN NMOS (                                LEVEL   = 49
.MODEL nfet NMOS (                                LEVEL   = 49
+VERSION = 3.1            TNOM    = 27             TOX     = 4E-9
+XJ      = 1E-7           NCH     = 2.3549E17      VTH0    = 0.3627858
+K1      = 0.5873035      K2      = 4.793052E-3    K3      = 1E-3
+K3B     = 2.2736112      W0      = 1E-7           NLX     = 1.675684E-7
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 1.7838401      DVT1    = 0.5354277      DVT2    = -1.243646E-3
+U0      = 263.3294995    UA      = -1.359749E-9   UB      = 2.250116E-18
+UC      = 5.204485E-11   VSAT    = 1.083427E5     A0      = 2
+AGS     = 0.4289385      B0      = -6.378671E-9   B1      = -1E-7
+KETA    = -0.0127717     A1      = 5.347644E-4    A2      = 0.8370202
+RDSW    = 150            PRWG    = 0.5            PRWB    = -0.2
+WR      = 1              WINT    = 1.798714E-9    LINT    = 7.631769E-9
+XL      = -2E-8          XW      = -1E-8          DWG     = -3.268901E-9
+DWB     = 7.685893E-9    VOFF    = -0.0882278     NFACTOR = 2.5
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 2.455162E-3    ETAB    = 1
+DSUB    = 0.0173531      PCLM    = 0.7303352      PDIBLC1 = 0.2246297
+PDIBLC2 = 2.220529E-3    PDIBLCB = -0.1           DROUT   = 0.7685422
+PSCBE1  = 8.697563E9     PSCBE2  = 5E-10          PVAG    = 0
+DELTA   = 0.01           RSH     = 6.7            MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 7.16E-10       CGSO    = 7.16E-10       CGBO    = 1E-12
+CJ      = 9.725711E-4    PB      = 0.7300537      MJ      = 0.365507
+CJSW    = 2.604808E-10   PBSW    = 0.4            MJSW    = 0.1
+CJSWG   = 3.3E-10        PBSWG   = 0.4            MJSWG   = 0.1
+CF      = 0              PVTH0   = 4.289276E-4    PRDSW   = -4.2003751
+PK2     = -4.920718E-4   WKETA   = 6.938214E-4    LKETA   = -0.0118628
+PU0     = 24.2772783     PUA     = 9.138642E-11   PUB     = 0
+PVSAT   = 1.680804E3     PETA0   = 2.44792E-6     PKETA   = 4.537962E-5     )
*


* DATE: Dec  9/02
* LOT: T29B                  WAF: 6003
* Temperature_parameters=Default

*.MODEL TSMC18dP PMOS (                                LEVEL   = 49
.MODEL pfet PMOS (                                LEVEL   = 49
+VERSION = 3.1            TNOM    = 27             TOX     = 4E-9
+XJ      = 1E-7           NCH     = 4.1589E17      VTH0    = -0.4064886
+K1      = 0.5499001      K2      = 0.0389453      K3      = 0
+K3B     = 11.4951756     W0      = 1E-6           NLX     = 9.143209E-8
+DVT0W   = 0              DVT1W   = 0              DVT2W   = 0
+DVT0    = 0.5449299      DVT1    = 0.3160821      DVT2    = 0.1
+U0      = 117.9612996    UA      = 1.64867E-9     UB      = 1.165056E-21
+UC      = -1E-10         VSAT    = 2E5            A0      = 1.7833459
+AGS     = 0.407511       B0      = 1.314603E-6    B1      = 5E-6
+KETA    = 0.0137171      A1      = 0.4610527      A2      = 0.6597363
+RDSW    = 364.9443889    PRWG    = 0.5            PRWB    = -0.1129203
+WR      = 1              WINT    = 0              LINT    = 2.007556E-8
+XL      = -2E-8          XW      = -1E-8          DWG     = -2.835566E-8
+DWB     = 8.003075E-9    VOFF    = -0.1064646     NFACTOR = 2
+CIT     = 0              CDSC    = 2.4E-4         CDSCD   = 0
+CDSCB   = 0              ETA0    = 0.0141703      ETAB    = -0.0398356
+DSUB    = 0.4441401      PCLM    = 2.2364512      PDIBLC1 = 9.167645E-4
+PDIBLC2 = 0.0209189      PDIBLCB = -9.568266E-4   DROUT   = 9.976778E-4
+PSCBE1  = 1.731161E9     PSCBE2  = 5E-10          PVAG    = 14.337819
+DELTA   = 0.01           RSH     = 7.5            MOBMOD  = 1
+PRT     = 0              UTE     = -1.5           KT1     = -0.11
+KT1L    = 0              KT2     = 0.022          UA1     = 4.31E-9
+UB1     = -7.61E-18      UC1     = -5.6E-11       AT      = 3.3E4
+WL      = 0              WLN     = 1              WW      = 0
+WWN     = 1              WWL     = 0              LL      = 0
+LLN     = 1              LW      = 0              LWN     = 1
+LWL     = 0              CAPMOD  = 2              XPART   = 0.5
+CGDO    = 6.79E-10       CGSO    = 6.79E-10       CGBO    = 1E-12
+CJ      = 1.176396E-3    PB      = 0.8607121      MJ      = 0.4163285
+CJSW    = 2.135953E-10   PBSW    = 0.6430918      MJSW    = 0.2654457
+CJSWG   = 4.22E-10       PBSWG   = 0.6430918      MJSWG   = 0.2654457
+CF      = 0              PVTH0   = 4.364418E-3    PRDSW   = 4.4192048
+PK2     = 3.104478E-3    WKETA   = 0.0270296      LKETA   = 2.038008E-3
+PU0     = -2.3639825     PUA     = -8.41675E-11   PUB     = 1E-21
+PVSAT   = -50            PETA0   = 1E-4           PKETA   = -1.444802E-3    )
*
VOUTT2B out 0 DC 0

VCLMPT2B vdd 0 DC 3.6
VGCLMPT2B vss 0 DC 0

 
VENAT2B oe 0 DC 0

RINT2B in vss 1.000000e+09

.TEMP 0.000000

.OPTIONS INGOLD=2.000000
.OPTIONS NUMDGT=8


.DC VOUTT2B -3.3 3.3 0.067 
.PRINT DC I(VOUTT2B)

.END

